US05399703
Step 4 (E)-2-[ 2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzamide
In 40 ml of benzene was suspended 2.8 g of (E)-2-[2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzoic acid followed by addition of 1.2 g of N,N'-carbonyldiimidazole, and the mixture was stirred at room temperature for 2 hours. Ammonia gas was introduced into the mixture with ice-cooling and stirring for 20 minutes and the mixture was then allowed to stand at room temperature for 2 hours. The crystals separated out therefrom were collected by filtration and washed with ethyl acetate to give 2.6 g of the title compound as white crystals.

reactant | (E)-2-[2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzoic acid | 2.8 g | C(\C=C\CCCC)OC1=CC=C(C(=O)NC2=C(C=CC=C2)SC2=C(C(=O)O)C=CC=C2)C=C1 | C27H27NO4S
reactant | Ammonia | N | H3N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | (E)-2-[ 2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzamide | 2.6 g | C(\C=C\CCCC)OC1=CC=C(C(=O)NC2=C(C=CC=C2)SC2=C(C(=O)N)C=CC=C2)C=C1 | C27H28N2O3S
